* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Buck-lazo-abierto.asc
V2 pwm 0 PULSE(0 12 0 1n 1n {ton} {T})
L§IL Vd Vo 700µ
C1 Vo 0 100n
R1 Vo 0 330
XU1 N004 N002 0 pwm vcc N001 Vd vcc IR2104
V1 vdd 0 {Vin}
R2 N003 N002 10
C2 N001 Vd 0.33µ
D1 vcc N001 D1n5822rl
C3 vcc 0 1µ
R3 N005 N004 10
V3 vcc 0 12
XU2 vdd N003 Vd irf540
XU3 Vd N005 0 irf540
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1m 0 uic
.MEASURE TRAN Vo AVG(V(Vo)) FROM=0.2ms TO=2ms
.MEASURE TRAN IL AVG(I(IL)) FROM=0.2ms TO=2ms
.include IR2104.lib
.lib 1N5822RL.LIB
.option noopiter
* .option gmin=1e-9
.param TiempoMuerto 310n
* Dutys: {0.52916, 0.17638888}
.param Duty (6.35/Vin * (1+TiempoMuerto/T))
.param fsw  200k
.param ton (Duty/fsw)
.param Vin 36
.param T (1/fsw)
.inc sihf540.lib
*Feb 19, 2010
*Doc. ID: 90199, Rev. A
*File Name: part irf630_sihf630_PS.txt and part irf630_sihf630_PS.spi
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet.  Designers should refer to the
*appropriate data sheet of the same number for guaranteed specification
*limits.
.SUBCKT irf630 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jun 25, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.90614 LAMBDA=0 KP=2.70091
+CGSO=7.25845e-06 CGDO=1e-11
RS 8 3 0.0001
D1 3 1 MD
.MODEL MD D IS=2.59955e-15 RS=0.0232241 N=0.818263 BV=200
+IBV=0.00025 EG=1 XTI=2.54918 TT=0
+CJO=6.35847e-10 VJ=5 M=0.772431 FC=0.5
RDS 3 1 8e+06
RD 9 1 0.169992
RG 2 7 4.09017
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.28188e-09 VJ=1.20026 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.413904 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.2819e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.413904
.ENDS
.lib C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Infineon-IR2104-PSpice-SimulationModels-v01_00-EN\Model\IR2104.lib
.backanno
.end
